US08106070B2
Dess-Martin periodinane (304 mg, 0.72 mmol) was added to an ambient temperature solution of tert-butyl 4,4-difluoro-2-[4-(5-fluoropyridin-2-yl)benzyl]-2-{[(2-hydroxy-4,4-dimethylhexyl)amino]carbonyl}pyrrolidine-1-carboxylate (202 mg, 0.36 mmol) in dichloromethane (5 mL). After stirring at ambient temperature for 1 h, the reaction mixture was quenched with saturated aqueous sodium bicarbonate/saturated aqueous sodium thiosulfate (1:1) and extracted with ethyl acetate. The combined organic extracts were dried (magnesium sulfate), filtered, and concentrated in vacuo. Chromatography over silica eluting with 0-50% ethyl acetate/hexane afforded tert-butyl 2-{[(4,4-dimethyl-2-oxohexyl)amino]carbonyl}-4,4-difluoro-2-[4-(5-fluoropyridin-2-yl)benzyl]pyrrolidine-1-carboxylate.

reactant | Dess-Martin periodinane | 0.72 mmol, 304 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | tert-butyl 4,4-difluoro-2-[4-(5-fluoropyridin-2-yl)benzyl]-2-{[(2-hydroxy-4,4-dimethylhexyl)amino]carbonyl}pyrrolidine-1-carboxylate | 0.36 mmol, 202 mg | FC1(CC(N(C1)C(=O)OC(C)(C)C)(C(=O)NCC(CC(CC)(C)C)O)CC1=CC=C(C=C1)C1=NC=C(C=C1)F)F | C30H40F3N3O4
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | tert-butyl 2-{[(4,4-dimethyl-2-oxohexyl)amino]carbonyl}-4,4-difluoro-2-[4-(5-fluoropyridin-2-yl)benzyl]pyrrolidine-1-carboxylate | CC(CC(CNC(=O)C1(N(CC(C1)(F)F)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=NC=C(C=C1)F)=O)(CC)C | C30H38F3N3O4
